US05204333
To a stirred suspension of pyridinium chlorochromate (75.5 g, 0.35 mol) in dry dichloromethane (300 ml) under a nitrogen atmosphere was added 2-(3-fluorophenyl)ethanol (43 g, 0.31 mol) dropwise. After the addition the mixture was stirred for 1 hour, allowed to stand overnight then poured down a florisil column. The column was washed with ether and the combined filtrate and washings were evaporated to leave the crude 3-fluorophenyl acetaldehyde as an unstable liquid which was not purified further (34 g), NMR δ 9.75 (1H, t), 7.3 (1H, m), 7.05-6.9 (3H, m), 3.7 (2H, d).

reactant | pyridinium chlorochromate | 0.35 mol, 75.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 2-(3-fluorophenyl)ethanol | 0.31 mol, 43 g | FC=1C=C(C=CC1)CCO | C8H9FO
reactant | florisil | [O-][Si](=O)[O-].[Mg+2]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3-fluorophenyl acetaldehyde | FC=1C=C(C=CC1)CC=O | C8H7FO
